US04283532
(iii) N,N-dimethyl-o-(2,6-dichloroanilino)phenylacetamide
In 80 ml of xylene (having a boiling point of 138° to 141° C.), 8.5 g (0.0525 mole) of 2,6-dichloroaniline was refluxed together with 5.2 g (0.0215 mole) of N,N-dimethyl-o-bromophenylacetamide, 5.0 g (0.0357 mole) of potassium carbonate, 1.0 g of copper powder, 1.0 g of cuprous iodide and 2.0 g of sodium iodide for 48 hours under agitation, while water formed by the reaction was being separated. After completion of the reaction, the reaction mixture was treated with active carbon while it was still warm, and the filtrate was concentrated. The obtained residue was mixed with methyl alcohol and the crystal precipitated on cooling was recovered by filtration, washed with methyl alcohol and dried.

reactant | 2,6-dichloroaniline | 0.0525 mole, 8.5 g | ClC1=C(N)C(=CC=C1)Cl | C6H5Cl2N
reactant | N,N-dimethyl-o-bromophenylacetamide | 0.0215 mole, 5.2 g | CN(C(CC1=C(C=CC=C1)Br)=O)C | C10H12BrNO
reactant | potassium carbonate | 0.0357 mole, 5.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 2.0 g | [I-].[Na+]
solvent | xylene | 80 ml | C=1(C(=CC=CC1)C)C | C8H10
catalyst | copper | 1.0 g | [Cu] | Cu
solvent | water | O | H2O
product | N,N-dimethyl-o-(2,6-dichloroanilino)phenylacetamide | CN(C(CC1=C(C=CC=C1)NC1=C(C=CC=C1Cl)Cl)=O)C | C16H16Cl2N2O
